US07538243B2
a) 2-Methoxymethylene-3,3-dimethyl-indan-1-one
Ethylformate (8.10 g, 110 mmol) in THF (50 ml) was added to the suspension of NaH (55% in mineral oil, 4.80 g, 110 mmol) in THF (50 ml). After stirring for 5 min at RT Dimethylindanone (16.0 g, 100 mmol)in THF (50 ml) was added. Gas evolution started and the temperature of the mixture rose and was controlled with an icebath to not exceed 40° C. After further stirring for 4.5 h at RT, methyl iodide (42.6 g, 300 mmol) was added und stirring continued for 48 h. After quenching with aq. NaHCO3-solution and aqueous workup a dark red oil (20.4 g, 100%) of was obtained.

reactant | Ethylformate | 110 mmol, 8.10 g | C(C)OC=O | C3H6O2
reactant | NaH | 110 mmol, 4.80 g | [H-].[Na+]
reactant | Dimethylindanone | 100 mmol, 16.0 g | CC1(C(C2=CC=CC=C2C1)=O)C | C11H12O
reactant | methyl iodide | 300 mmol, 42.6 g | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Methoxymethylene-3,3-dimethyl-indan-1-one | COC=C1C(C2=CC=CC=C2C1(C)C)=O | C13H14O2
